US06465493B1
Preparation 4: Trifluoro-methanesulfonic acid 2,3-dihydro-benzofuran-6-yl ester
2,3-Dihydro-benzofuran-6-ol (2.5 g) was dissolved in anhydrous dichloromethane under an argon atmosphere. Triethylamine (3.5 ml) was added and the reaction cooled to 0° C. A solution of trifluoromethane sulfonic anhydride (3.1 ml) in dichloromethane (10 ml) was added drop-wise over 1 minute. After 2 hours the reaction was quenched by the addition of a saturated sodium bicarbonate solution (50 ml). The reaction mixture was partitioned between water (100 ml) and dichloromethane (200 ml). The dichloromethane layer was separated, dried (MgSO4) and evaporated to dryness under reduced pressure. The resulting residue was isolated in quantitative yield by silica gel column chromatography (using 1:3 ethyl acetate:hexane as eluent). 1H NMR (250 MHz, CDCl3) δ: 3.22 (2H, t, J=8.4 Hz), 4.66 (2H, t, J=8.4 Hz), 6.68 (1H, d, J=1 Hz), 6.74 (1H, dd, J=8 and 1 Hz), 7.20 (1H, d, J=8 Hz); m/z (API+): 271(M+3H+).

reactant | 2,3-Dihydro-benzofuran-6-ol | 2.5 g | O1CCC2=C1C=C(C=C2)O | C8H8O2
reactant | Triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethane sulfonic anhydride | 3.1 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic acid 2,3-dihydro-benzofuran-6-yl ester | quantitative yield | O1CCC2=C1C=C(C=C2)OS(=O)(=O)C(F)(F)F | C9H7F3O4S
